US04518596
8-(4-Methoxyphenyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(4-methoxyphenyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 196°-199° C.) and piperazine.

reactant | 2-chloro-8-(4-methoxyphenyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC2=CC=C(C=C2)OC)N2CCOCC2 | C17H16ClN5O2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(4-Methoxyphenyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | COC1=CC=C(C=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C21H25N7O2S
